US06294503B1
Preparation of 3-[7-fluoro-5-nitro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione (Compound No.1-24)
3-[7-Fluoro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione (3.5 g) was slowly added to a mixture of acetic acid (15 ml) and fuming nitric acid (45 ml) at 0° C. with stirring. After stirring for 2 hr at room temperature, the solution was poured on ice-water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over sodium sulfate and evaporated. The residue was purified by column chromatography on silica gel using hexane-ethyl acetate (6:4) as eluent to afford the title compound (3.25 g).

reactant | 3-[7-Fluoro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione | 3.5 g | FC1=CC2=C(NC(CO2)=O)C=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C14H9F4N3O4
reactant | nitric acid | 45 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 3-[7-fluoro-5-nitro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione | 3.25 g | FC1=CC2=C(NC(CO2)=O)C(=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-] | C14H8F4N4O6
